US07435815B2
N-Ethyl-2-[(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide
prepared by reaction of [(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | CC=1C(=NC=CC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C15H16N2O4S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | N-Ethyl-2-[(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=NC=CC=C1C)=O)CC1=NC(=CC=C1)C | C24H28N4O3S
